US06806274B1
1-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-(2-methylbenzyl)urea
Using an analogous procedure to that described in Example 3, 2-methylbenzyl isocyanate was reacted with 4-amino-6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazoline. The resultant solid was purified by column chromatography on silica using increasingly polar mixtures of methylene chloride, methanol and a 1% aqueous ammonium hydroxide solution as eluent. There was thus obtained the title compound; NMR Spectrum: (CDCl3) 1.39-1.56 (m, 2H), 1.84-2.04 (m, 5H), 2.29 (s, 3H), 2.39 (s, 3H), 2.9 (d, 2H), 3.92 (s, 3H), 4.03 (d, 2H), 4.66 (d, 2H), 7.21 (m, 4H), 7.34 (m, 2H), 8.6 (s, 1H), 8.74 (s, 1H), 10.44 (t, 1H); Mass Spectrum: M+H+ 450.

reactant | 2-methylbenzyl isocyanate | CC1=C(CN=C=O)C=CC=C1 | C9H9NO
reactant | 4-amino-6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazoline | NC1=NC=NC2=CC(=C(C=C12)OC)OCC1CCN(CC1)C | C16H22N4O2
product | 1-[6-methoxy-7-(N-methylpiperidin-4-ylmethoxy)quinazolin-4-yl]-3-(2-methylbenzyl)urea | COC=1C=C2C(=NC=NC2=CC1OCC1CCN(CC1)C)NC(=O)NCC1=C(C=CC=C1)C | C25H31N5O3
